US08293746B2
Step 13.2: 4-(4-Benzyl-piperazin-1-yl)-phenylamine
Iron powder (5.4 g, 97 mmol, 4 equiv) is added portionwise to an 80° C. mixture of 1-benzyl-4-(4-nitro-phenyl)-piperazine (7.2 g, 24.2 mmol), EtOH (150 mL), H2O (40 mL), and AcOH (20 mL). The reaction mixture is stirred for 1.75 h at 80° C., allowed to cool to RT, and concentrated. The residue is diluted with EtOAc and an aqueous saturated solution of Na2CO3. The layers are separated and the aqueous phase is extracted with EtOAc. The combined organic phase is washed with brine, dried (Na2SO4), filtered and concentrated to afford the title compound: ES-MS: 268.3 [MH]+; single peak at tR=1.30 min (system 1).

reactant | 1-benzyl-4-(4-nitro-phenyl)-piperazine | 24.2 mmol, 7.2 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O2
reactant | EtOH | 150 mL | CCO | C2H6O
reactant | H2O | 40 mL | O | H2O
catalyst | Iron | 97 mmol, 5.4 g, 4 equiv | [Fe] | Fe
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 4-(4-Benzyl-piperazin-1-yl)-phenylamine | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N | C17H21N3
